US06051712
A solution of 2.78 g (10 mmol) of tert-butyl 3-bromo-4-oxo-piperidine-1-carboxylate and 2.09 g (12 mmol) of 2-mercaptomethylnaphthalene in 100 ml of absolute acetonitrile was treated with 13.8 g (100 mmol) of anhydrous potassium carbonate and thereafter the mixture was stirred at room temperature for 18 hours. The reaction mixture was filtered, the filtrate was poured on to ice-water and adjusted to pH 2-3 with concentrated hydrochloric acid; the aqueous phase was extracted three times with 200 ml of ethyl acetate each time, the organic phase was washed once with 200 ml of water, dried over magnesium sulphate, filtered and concentrated in a water-jet vacuum. The crude product (5.5 g) was chromatographed on silica gel with hexane and ethyl acetate as the eluent. The product was recrystallized from ethyl acetate and hexane. There were obtained 2.27 g (61% of theory) of tert-butyl (3RS)-3-(naphthalen-2-ylmethylthio)-4-oxo-piperidine-1-carboxylate as a colourless solid; MS: 371 (M)+.

reactant | tert-butyl 3-bromo-4-oxo-piperidine-1-carboxylate | 10 mmol, 2.78 g | BrC1CN(CCC1=O)C(=O)OC(C)(C)C | C10H16BrNO3
reactant | 2-mercaptomethylnaphthalene | 12 mmol, 2.09 g | SCC1=CC2=CC=CC=C2C=C1 | C11H10S
reactant | potassium carbonate | 100 mmol, 13.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | tert-butyl (3RS)-3-(naphthalen-2-ylmethylthio)-4-oxo-piperidine-1-carboxylate | 2.27 g, 61% | C1=C(C=CC2=CC=CC=C12)CSC1CN(CCC1=O)C(=O)OC(C)(C)C | C21H25NO3S
